US06358980B1
1-(tert-Butyl) 4-ethyl 4-(iodomethyl)piperidine-1,4-dicarboxylate
To a solution of piperidine-1,4-dicarboxylic acid tert-butyl ester ethyl ester (12.8 g, 49.74 mmol) in 73 mL of dry THF under N2 atmosphere at −42° C. was added 24.87 mL (49.74 mmol) of 2M Lithium diisopropylamine in heptane/THF/ethylbenzene dropwise to not exceed −40° C. After one hour, 4.0 mL (49.74 mmol) of diiodomethane was added and the solution was warmed to ambient temperature overnight. The resulting solution was diluted with H2O and extracted with ethyl acetate. The organics were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to provide 18.84 g (95%) of the desired product as a brown oil. Electrospray Mass Spec: 398.2 (M+H)+

reactant | piperidine-1,4-dicarboxylic acid tert-butyl ester ethyl ester | 49.74 mmol, 12.8 g | C(C)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | Lithium diisopropylamine | 49.74 mmol, 2M, 24.87 mL | C(C)(C)NC(C)C.[Li]
reactant | diiodomethane | 49.74 mmol, 4.0 mL | ICI | CH2I2
solvent | THF | 73 mL | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | H2O | O | H2O
product | 1-(tert-Butyl) 4-ethyl 4-(iodomethyl)piperidine-1,4-dicarboxylate | 18.84 g, 95% | ICC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C14H24INO4
